US04810713
4-[Bis(4-fluorophenyl)methyl]-1-[3-(3,4-dimethoxyphenoxy)propyl]piperidine oxalate [1:1]
A mixture of 6.02 g (0.021 mole) of 4-[bis(4-fluorophenyl)methyl]piperidine, 4.83 g (0.021 mole) of 4-(3-chloropropoxy)-1,2-dimethoxybenzene, and potassium carbonate (5.52 g, 0.04 mole) was refluxed overnight in 300 ml of 1-butanol containing potassium iodide (0.3 g). The reaction mixture was stripped to dryness and partitioned between chloroform and water several times. The chloroform layer was dried over anhydrous sodium sulfate and then filtered. The chloroform was removed by rotary evaporator. The oil obtained was converted to the oxalate salt and then recrystallized from methanol-diethyl ether and methanol isopropanol ether. This furnished 7.77 g (64.7%) of white solid; m.p. 188° C.

reactant | 4-[bis(4-fluorophenyl)methyl]piperidine | 0.021 mole, 6.02 g | FC1=CC=C(C=C1)C(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2N
reactant | 4-(3-chloropropoxy)-1,2-dimethoxybenzene | 0.021 mole, 4.83 g | ClCCCOC1=CC(=C(C=C1)OC)OC | C11H15ClO3
reactant | potassium carbonate | 0.04 mole, 5.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.3 g | [I-].[K+]
reactant | 1-butanol | 300 ml | C(CCC)O | C4H10O
product | 4-[Bis(4-fluorophenyl)methyl]-1-[3-(3,4-dimethoxyphenoxy)propyl]piperidine oxalate | C(C(=O)O)(=O)O.FC1=CC=C(C=C1)C(C1CCN(CC1)CCCOC1=CC(=C(C=C1)OC)OC)C1=CC=C(C=C1)F | InChI=1S/C29H33F2NO3.C2H2O4/c1-33-27-13-12-26(20-28(27)34-2)35-19-3-16-32-17-14-23(15-18-32)29(21-4-8-24(30)9-5-21)22-6-10-25(31)11-7-22;3-1(4)2(5)6/h4-13,20,23,29H,3,14-19H2,1-2H3;(H,3,4)(H,5,6)
